US04234579
The ethyl acetate solution of 6,6-dibromopenicillanic acid 1,1-dioxide from Preparation K was combined with 705 ml. of saturated aqueous sodium bicarbonate solution and 8.88 g. of 5% palladium-on-carbon catalyst. The mixture was shaken under an atmosphere of hydrogen, at a pressure of about 5 kg/cm2 for about 1 hour. The catalyst was removed by filtration, and the pH of the aqueous phase of the filtrate was adjusted to 1.2 with 6N hydrochloric acid. The aqueous phase was saturated with sodium chloride. The layers were separated and the aqueous phase was extracted with further ethyl acetate (3×200 ml.). The combined ethyl acetate solutions were dried (MgSO4) and evaporated in vacuo to afford 33.5 g. (58% yield from 6-aminopenicillanic acid) of penicillanic acid 1,1-dioxide. This product was dissolved in 600 ml. of ethyl acetate, the solution was decolorized using activated carbon and the solvent was removed by evaporation in vacuo. The product was washed with hexane. This afforded 31.0 g. of pure product.

reactant | 6,6-dibromopenicillanic acid 1,1-dioxide | CC1([C@@H](N2[C@H](S1(=O)=O)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | penicillanic acid 1,1-dioxide | 58% yield | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)C | C8H11NO5S
